US04846882
By the method of Example 2, Step H, 0.50 g (0.0020 mole) of 4-chloro-2-fluoro-5-(diisopropylaminomethyl)aniline and 0.85 g (0.0056 mole) of tetrahydrophthalic anhydride in 20 ml of acetic acid were reacted yielding 0.052 g of N-[4-chloro-2-fluoro-5-(diisopropylaminomethyl)phenyl]-3,4,5,6-tetrahydrophthalimide. The nmr and ir spectra were consistent with the proposed structure.

reactant | 4-chloro-2-fluoro-5-(diisopropylaminomethyl)aniline | 0.0020 mole, 0.50 g | ClC1=CC(=C(N)C=C1CN(C(C)C)C(C)C)F | C13H20ClFN2
reactant | tetrahydrophthalic anhydride | 0.0056 mole, 0.85 g | C1(C2C(C(=O)O1)CCC=C2)=O | C8H8O3
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | N-[4-chloro-2-fluoro-5-(diisopropylaminomethyl)phenyl]-3,4,5,6-tetrahydrophthalimide | 0.052 g | ClC1=CC(=C(C=C1CN(C(C)C)C(C)C)N1C(C2=C(C1=O)CCCC2)=O)F | C21H26ClFN2O2
